US07012089B2
9-Fluoro-4-methyl-3,4,5,6-tetrahydro-2H-benzo[e][1,4]diazocin-1-ylamine
To a solution of 9-Fluoro-4-methyl-1,2,3,4,5,6-hexahydro-benzo[e][1,4]diazocine (1.9 g, 0.0096 mole approximately) in hydrochloric acid (2 N, 100 mL) cooled to 0° C. was added sodium nitrite (2.5 g, 0.036 mole) in water (20 mL). The mixture was stirred for 1 hour and treated with sodium bicarbonate and extracted with ethyl acetate (3×100 mL). The combined organic layers were washed with saturated sodium chloride (200 mL), dried and concentrated to a light brown oil. The oil was redissolved in THF (50 mL) and added to a suspension of lithium aluminum hydride (2.5 g, 0.063 mole) in THF (100 mL) and the mixture refluxed for 3 hours. The excess hydride was destroyed at 0° C. by the cautious addition of ethyl acetate. The mixture was washed with aqueous potassium sodium tartrate (10% v/w, 150 mL) and saturated aqueous sodium chloride (150 mL), dried (sodium sulfate) and concentrated. Evaporation in vacuo provided 1.9 g of the title compound as a light yellow oil. This oil was used for indole formation without further purification. MS (ES) m/z 210.1 ([M+H]+).

reactant | 9-Fluoro-4-methyl-1,2,3,4,5,6-hexahydro-benzo[e][1,4]diazocine | 0.0096 mole approximately, 1.9 g | FC=1C=CC2=C(NCCN(CC2)C)C1 | C11H15FN2
reactant | sodium nitrite | 0.036 mole, 2.5 g | N(=O)[O-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | lithium aluminum hydride | 0.063 mole, 2.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | hydrochloric acid | 2 N, 100 mL | Cl | ClH
solvent | water | 20 mL | O | H2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 9-Fluoro-4-methyl-3,4,5,6-tetrahydro-2H-benzo[e][1,4]diazocin-1-ylamine | 1.9 g | FC=1C=CC2=C(N(CCN(CC2)C)N)C1 | C11H16FN3
